US06272038B1
Zinc(II)-20-(4-Ethynylphenyl)-5,10,15-tris(2,6-difluorophenyl)porphyrin (Zn-4)
To a solution of Zn-3 (82 mg, 93.2 μmol) in THF (9 mL) was added a suspension of K2CO3 (30 mg, 217 μmol) in methanol (3 mL). The mixture was stirred for 1 h at room temperature in the dark. Then CH2Cl2 (20 mL) was added. The mixture was washed with aqueous 5% NaHCO3 solution (20 niL) and dried (Na2SO4). Purification by column chromatography (silica, CH2Cl2/hexanes 1:2) afforded 58 mg (71.6 μmol, 77%) of the title compound as a red-purple solid.

reactant | Zinc(II) 5,10,15-Tris(2,6-difluorophenyl)-20-[4-{2-(trimethylsilyl)ethynyl} phenyl]-porphyrin | 93.2 μmol, 82 mg | [Zn+2].FC1=C(C(=CC=C1)F)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=C(C=CC=C4F)F)N3)C3=C(C=CC=C3F)F)=N2)C2=CC=C(C=C2)C#C[Si](C)(C)C
reactant | K2CO3 | 217 μmol, 30 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | methanol | 3 mL | CO | CH4O
product | Zinc(II) 20-(4-Ethynylphenyl)-5,10,15-tris(2,6-difluorophenyl)porphyrin | 71.6 μmol, 58 mg, 77% | [Zn+2].C(#C)C1=CC=C(C=C1)C1=C2C=CC(C(=C3C=CC(=C(C=4C=CC(=C(C5=CC=C1N5)C5=C(C=CC=C5F)F)N4)C4=C(C=CC=C4F)F)N3)C3=C(C=CC=C3F)F)=N2 | InChI=1S/C46H24F6N4.Zn/c1-2-24-12-14-25(15-13-24)40-32-16-18-34(53-32)44(41-26(47)6-3-7-27(41)48)36-20-22-38(55-36)46(43-30(51)10-5-11-31(43)52)39-23-21-37(56-39)45(35-19-17-33(40)54-35)42-28(49)8-4-9-29(42)50;/h1,3-23,53,56H;/q;+2
